*	NXP Semiconductors 								
*	GUMMEL-POON Transistor MODEL IN SPICE SYNTAX					
*	BFU690 Model in SOT343F							
*	VALID UP TO 4 GHZ						
*	October 2010									
*	This file includes parameters for chip of BFU690 in package SOT343F.
 
* 	transistor:BFU690F
* 	1:COLLECTOR; 2: BASE; 3: EMITTER											
*	.OPTION TNOM = 25, 

.SUBCKT BFU690F 1 2 3	   area=1	M=30
Q1 11 22 33 33 Chip690
****taken out  FMN Area=1 Region=1 Temp=25    M=30

*package SOT343F		

Rb2x	22 24	1.07413
Rc2x	11 12	1.0494
Lb2x	22 24	6.6493e-11
Lc2x	11 12	6.67134e-11
Cbe1	25 33	1.575795e-13
Cbe2	22 23	6.4818e-014
Cce1	13 33	1.3083644e-13
Cce2	11 14	4.91284e-14
Cbc1	25 28	3.101589e-15
Cbc2	15 22	9.55071e-15
Lb1	 2 25	2.82948e-10
Lb2	24 25	7.31262e-10
Lc1	 1 13	4.805e-15
Lc2	12 13	3.84827e-10
Le1	 3 33	7.94063e-11
Rbc2	11 15	147.447
Rbc1	13 28	855.844
Rbe2	23 33	7.31739
Rce2	14 33	8.25899						
									
.MODEL Chip690 NPN						
+      Is   = 8.964e-18
+      Bf   = 190 
+      Nf   = 1.006  
+      Vaf  = 24.79  
+      Ikf  = 35.03e-3
+      Ise  = 70.30e-15 
+      Ne   = 1.960  
+      Br   = 27.00 
+      Nr   = 1.005  
+      Var  = 4.002  
+      Ikr  = 2.882e-3 
+      Isc  = 886.0e-18 
+      Nc   = 1.474 
+      Rb   = 15.63 
+      Irb  = 24.42e-6
+      Rbm  = 12.62 
+      Re   = 6.341  
+      Rc   = 5.701  
+      Cje  = 60.88e-15 
+      Vje  = 0.715  
+      Mje  = 446.3e-3 
+      Cjc  = 15.53f 
+      Vjc  = 512.0e-3
+      Mjc  = 169.2e-3
+      Xcjc = 1.0000 
+      Cjs  = 321.1e-15
+      Vjs  = 60.30e-3 
+      Mjs  = 290.2e-3 
+      Fc   = 500.0e-3
+      Xtf  = 301.1e-3
+      Tf   = 4.754e-12
+      Vtf  = 1.214 
+      Itf  = 104.2e-6 
+      Ptf  = 20.0 
+      Tr   = 1.700e-12 
+      Eg   = 1.110  
+      Xtb  = 0.000  
+      Xti  = 3.000  
.ENDS