* Z:\home\ashmansk\u\proj\pulser\SelfContained_Pulser.asc
R1 N009 N008 50
XU2 Vcc N011 N015 Bfu730f
R4 N001 N003 80
V1 N008 0 PULSE(3.3 0 10n 1n 1n 100n)
R8 N010 N009 2k
R9 N027 N026 200
L1 N010 N026 5n
V2 Vcc 0 5
Cs1 N003 0 {Cs}
C1 TstPls N003 40p
R3 TstPls N007 50
R5 N006 TstPls 200
R6 Vcc Out_1 {p_ef}
XU1 0 N006 Out_1 HFAPNP
Voffs N007 0 1
R7 N017 TSTPls 200
R10 Vcc Out_5 {p_ef}
XU3 0 N017 Out_5 HFAPNP
R11 N004 TSTPls 200
R12 Vcc Out_2 {p_ef}
XU4 0 N004 Out_2 HFAPNP
R13 N019 TSTPls 200
R14 Vcc Out_6 {p_ef}
XU5 0 N019 Out_6 HFAPNP
R15 N005 TSTPls 200
R16 Vcc Out_3 {p_ef}
XU6 0 N005 Out_3 HFAPNP
R17 N020 TSTPls 200
R18 Vcc Out_7 {p_ef}
XU7 0 N020 Out_7 HFAPNP
R19 N002 TSTPls 200
R20 Vcc Out_4 {p_ef}
XU8 0 N002 Out_4 HFAPNP
R21 N018 TSTPls 200
R22 Vcc Out_8 {p_ef}
XU9 0 N018 Out_8 HFAPNP
R23 PMT_1 0 50
R24 PMT_2 0 50
R25 PMT_3 0 50
R26 PMT_4 0 50
R27 PMT_5 0 50
R28 PMT_6 0 50
R29 PMT_7 0 50
R30 PMT_8 0 50
CPMT_1 Out_1 PMT_1 .1µ
CPMT_2 Out_2 PMT_2 .1µ
CPMT_3 Out_3 PMT_3 .1µ
CPMT_4 Out_4 PMT_4 .1µ
CPMT_5 Out_5 PMT_5 .1µ
CPMT_6 Out_6 PMT_6 .1µ
CPMT_7 Out_7 PMT_7 .1µ
CPMT_8 Out_8 PMT_8 .1µ
Cs2 N010 0 {Cs}
Cs3 TSTPls 0 {Cs}
Cs4 TSTPls 0 {Cs}
Cseveral N001 0 2.2µF
Rseries N001 Vcc 3
R33 N011 N010 200
XU10 N012 N014 N016 Bfu730f
R34 N027 N025 200
R36 N003 N012 1
C4 N013 0 {Cs}
R31 N013 N014 200
R32 N024 N023 50
R37 N025 N024 2k
V3 N023 0 PULSE(0 3.3 10n 1n 1n 100n)
Voffs2 N027 0 2.5
L2 N021 N028 20µ
R40 N015 N021 15
R41 N016 N021 15
L3 N013 N025 5n
XU12 N033 N029 Vcc 0 N030 NC_01 LTC2050
R39 N031 N030 111
V5 N032 0 {setcur}
R42 N029 0 33
C3 N029 N030 2p
R43 N033 N032 1.8k
R44 N033 0 200
XU11 N028 N031 N029 BFR182
.inc BFU730F.PRM
.tran 0 30n 0
.inc BAS70.prm
.param     Cs =1p
.inc HFAPNP.sub
* Jumper  Out_n    to  enable output selection
* HFA3128  comes in arrays of  5 transistors each
* CSn   = Cstray n
* .step param  Iref  1m 20m
.param p_ef = 250
* .step param setcur  1 4 .5
.inc bfr182.sub
* These are the  cables to the  board under test.  The  50 ohm loads are not on the pulser board
.param setcur 2.5
.lib LTC.lib
.backanno
.end
